ee18btech11011.net - OPAMP CLOSED-LOOP STEP RESPONSE 
* AC ANALYSIS

VS	1	0	DC 0    AC	1  PWL(0US 0V  0.01US 1V)

*
RS	1	2	1K
RF	2	4	10K
XOP	0 2	4	OPAMP1	
*
* OPAMP MACRO MODEL, SINGLE-POLE 
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1      1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* GAIN BW PRODUCT = 10MHZ
* DC GAIN (1K) AND POLE 1 (100HZ)
EGAIN	3 0	1 2	1K
RP1	3	4	1K
CP1	4	0	1.5915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	4 0	1
ROUT	5	6	1k
.ENDS
*
* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.01US  1MS
*

* VIEW RESULTS
.control
run
plot V(1)V(4)
wrdata ee18btech11011.dat V(4)
.endc 

.end
